data/polar.json
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[N:1]1([c:26]2[cH:31][cH:7][n:36][cH:8][cH:32]2)[CH2:22][CH2:34][CH2:9][CH:23]1[C:30]([c:27]1[cH:12][cH:18][cH:24][cH:19][cH:13]1)([c:28]1[cH:14][cH:20][cH:25][cH:21][cH:15]1)[F:33].[O:2]=[S:6](=[O:3])([N:17]=[C:16]=[O:29])[c:37]1[cH:10][cH:4][c:35]([CH3:38])[cH:5][cH:11]1>>[N+:1]1(=[c:26]2[cH:31][cH:7][n:36]([C:16]([N-:17][S:6](=[O:2])(=[O:3])[c:37]3[cH:10][cH:4][c:35]([CH3:38])[cH:5][cH:11]3)=[O:29])[cH:8][cH:32]2)[CH2:22][CH2:34][CH2:9][CH:23]1[C:30]([c:27]1[cH:12][cH:18][cH:24][cH:19][cH:13]1)([c:28]1[cH:14][cH:20][cH:25][cH:21][cH:15]1)[F:33]", "epd": [["LP-/Pi+", [1], [26, 1]], ["Pi-/Pi+", [32, 26], [8, 32]], ["Pi-/Sigma+", [36, 8], [36, 16]], ["Pi-/LP+", [16, 17], [17]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][C:8]([CH3:2])=[N+:12]([O-:15])[O-:16].[O:3]=[N+:19]([O-:9])[c:14]1[cH:4][cH:6][c:10]([CH:17]=[CH:11][N+:13]([O-:18])=[O:20])[cH:7][cH:5]1>>[CH3:1][C:8]([CH3:2])([N+:12](=[O:15])[O-:16])[CH:17]([c:10]1[cH:6][cH:4][c:14]([N+:19](=[O:3])[O-:9])[cH:5][cH:7]1)[CH:11]=[N+:13]([O-:18])[O-:20]", "epd": [["LP-/Pi+", [15], [12, 15]], ["Pi-/Sigma+", [8, 12], [8, 17]], ["Pi-/Pi+", [17, 11], [11, 13]], ["Pi-/LP+", [13, 20], [20]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:2][n+:11]1[o:28][n:21][c:13]2[c:18]3[n+:10]([O-:22])[o:4][n:26][c:20]3[c:23]([N+:9]([O-:27])=[O:32])[cH:17][c:35]12.[cH:1]1[cH:15][cH:24][c:14]([B-:3]2([CH2:19][CH:12]=[CH2:31])[O:33][C:29]([CH3:5])([CH3:6])[C:30]([CH3:7])([CH3:8])[O:34]2)[cH:25][cH:16]1>>[cH:1]1[cH:15][cH:24][c:14]([B-:3]2([CH2:19][CH+:12][CH2:31][CH:17]3[C:23](=[N+:9]([O-:27])[O-:32])[c:20]4[c:18]([n+:10]([O-:22])[o:4][n:26]4)-[c:13]4[n:21][o:28][n+:11]([O-:2])[c:35]43)[O:33][C:29]([CH3:5])([CH3:6])[C:30]([CH3:7])([CH3:8])[O:34]2)[cH:25][cH:16]1", "epd": [["Pi-/Sigma+", [31, 12], [31, 17]], ["Pi-/Pi+", [17, 23], [23, 9]], ["Pi-/LP+", [9, 32], [32]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:5]1([c:15]2[c:44]([CH3:21])[cH:40][c:33]([CH3:27])[cH:43][c:47]2[CH3:24])[CH:39]=[CH:38][N:6]([c:16]2[c:45]([CH3:22])[cH:41][c:34]([CH3:28])[cH:42][c:46]2[CH3:23])[C:48]1=[CH2:35].[O:1]=[S:13](=[O:2])([N:12]([S:11][C:7]([F:8])([F:9])[F:10])[S:14](=[O:3])(=[O:4])[c:37]1[cH:19][cH:31][cH:26][cH:32][cH:20]1)[c:36]1[cH:17][cH:29][cH:25][cH:30][cH:18]1>>[O:1]=[S:13](=[O:2])([N-:12][S:14](=[O:3])(=[O:4])[c:37]1[cH:19][cH:31][cH:26][cH:32][cH:20]1)[c:36]1[cH:17][cH:29][cH:25][cH:30][cH:18]1.[n+:5]1(-[c:15]2[c:44]([CH3:21])[cH:40][c:33]([CH3:27])[cH:43][c:47]2[CH3:24])[cH:39][cH:38][n:6](-[c:16]2[c:45]([CH3:22])[cH:41][c:34]([CH3:28])[cH:42][c:46]2[CH3:23])[c:48]1[CH2:35][S:11][C:7]([F:8])([F:9])[F:10]", "epd": [["LP-/Pi+", [5], [48, 5]], ["Pi-/Sigma+", [35, 48], [35, 11]], ["Sigma-/LP+", [11, 12], [12]]]}
{"reaction_name": "Boc anhydride carbamate formation", "rsmi": "[C:1]([CH3:6])([CH3:7])([CH3:8])[O:16][C:12](=[O:3])[O:14][C:13](=[O:4])[O:17][C:2]([CH3:9])([CH3:10])[CH3:11].[NH:5]([CH3:15])[H:18]>>[C:1]([CH3:6])([CH3:7])([CH3:8])[O:16][C:12](=[O:3])[NH:5][CH3:15].[C:2]([CH3:9])([CH3:10])([CH3:11])[O:17][C:13](=[O:4])[O:14][H:18]", "epd": [["LP-/Sigma+", [5], [5, 12]], ["Pi-/LP+", [3, 12], [3]], ["LP-/Pi+", [3], [3, 12]], ["Sigma-/LP+", [12, 14], [14]], ["LP-/Sigma+", [14], [14, 18]], ["Sigma-/LP+", [5, 18], [5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:4]1([c:13]2[c:40]([CH3:16])[cH:36][c:28]([CH3:25])[cH:39][c:43]2[CH3:19])[CH:34]=[CH:33][N:5]([c:14]2[c:41]([CH3:17])[cH:37][c:29]([CH3:26])[cH:38][c:42]2[CH3:18])[C:47]1=[CH2:30].[O:1]=[S:48](=[O:2])([c:21]1[cH:6][cH:11][c:27]([CH3:49])[cH:12][cH:7]1)[n:31]1[cH:20][c:23]([N+:22](=[O:8])[O-:9])[c:24]2[cH:10][cH:35][c:15]([N+:46](=[O:44])[O-:45])[cH:3][c:32]21>>[O:1]=[S:48](=[O:2])([c:21]1[cH:6][cH:11][c:27]([CH3:49])[cH:12][cH:7]1)[N:31]1[CH:20]([CH2:30][c:47]2[n+:4](-[c:13]3[c:40]([CH3:16])[cH:36][c:28]([CH3:25])[cH:39][c:43]3[CH3:19])[cH:34][cH:33][n:5]2-[c:14]2[c:41]([CH3:17])[cH:37][c:29]([CH3:26])[cH:38][c:42]2[CH3:18])[C:23](=[N+:22]([O-:8])[O-:9])[c:24]2[cH:10][cH:35][c:15]([N+:46](=[O:44])[O-:45])[cH:3][c:32]21", "epd": [["LP-/Pi+", [4], [47, 4]], ["Pi-/Sigma+", [30, 47], [30, 20]], ["Pi-/Pi+", [20, 23], [23, 22]], ["Pi-/LP+", [22, 8], [8]]]}
{"reaction_name": "Imine Lewis-acid activation", "rsmi": "[CH:1](=[N:5][CH3:7])[CH3:6].[F:2][B:8]([F:3])[F:4]>>[CH:1](=[N+:5]([CH3:7])[B-:8]([F:2])([F:3])[F:4])[CH3:6]", "epd": [["LP-/Sigma+", [5], [5, 8]]]}
